US06806381B2
Preparation of 4-(2,6-dibromo-4-nitrophenoxy)-2-isopropylanisole
3-Isopropyl-4-methoxyphenol (197.2 g, 1.19 moles) was dissolved in dimethylformamide (4 L). The mixture was stirred while the reaction vessel was cooled in an icewater bath. Sodium hydroxide (1.278 L of 1.0M aqueous solution, 1.278 moles) was added while maintaining the temperature of the reaction mixture below 35° C. 1,3-Dibromo-2-iodo-5-nitrobenzene (400.0 g, 0.983 moles) dissolved in dimethylformamide (portion of 4 L) was added to the reaction mixture over approximately 45 min. The reaction mixture was stirred at 20° to 25° C. for 24 h. Deionized water (2 L) was added over 2 h and the reaction mixture was cooled to 5° C. The resulting crystals of 4-(2,6-dibromo-4-nitrophenoxy)-2-isopropylanisole (405.4 g, 92.6%) were recovered by filtration and dried for 48 h by evaporation under air flow at room temperature.

reactant | 3-Isopropyl-4-methoxyphenol | 1.19 moles, 197.2 g | C(C)(C)C=1C=C(C=CC1OC)O | C10H14O2
reactant | Sodium hydroxide | 1.278 moles, 1.0M, 1.278 L | [OH-].[Na+]
reactant | 1,3-Dibromo-2-iodo-5-nitrobenzene | 0.983 moles, 400.0 g | BrC1=C(C(=CC(=C1)[N+](=O)[O-])Br)I | C6H2Br2INO2
reactant | water | 2 L | O | H2O
solvent | dimethylformamide | 4 L | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4 L | CN(C=O)C | C3H7NO
product | 4-(2,6-dibromo-4-nitrophenoxy)-2-isopropylanisole | BrC1=C(OC2=CC(=C(C=C2)OC)C(C)C)C(=CC(=C1)[N+](=O)[O-])Br | C16H15Br2NO4
